US04284577
A suspension comprising a mixture of 221 mg of pyridinium chlorochromate (C5H5N+HCrO3Cl-) and 8.3 mg of sodium acetate in 1 ml of dichloromethane was prepared. To the suspension, a solution of 221 mg of 3α-(2-tetrahydropyranyloxy)-24-hydroxy-5β-cholane in 4 ml of dichloromethane was added at one time in an argon stream under stirring. After stirring for 3 hours, the supernatant of the reaction mixture was separated by decantation, and the precipitate was washed with dichloromethane three times. The supernatant was combined with the washings, passed through a short column with silica gel (4 g). The eluate with dichloromethane was concentrated under vacuum. 3α-(2-Tetrahydropyranyloxy)-24-oxo-5β-cholane (177 mg) was obtained as a colorless oily substance.

reactant | pyridinium chlorochromate | 221 mg | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | sodium acetate | 8.3 mg | C(C)(=O)[O-].[Na+]
reactant | 3α-(2-tetrahydropyranyloxy)-24-hydroxy-5β-cholane | 221 mg | O1C(CCCC1)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCO)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H50O3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 3α-(2-Tetrahydropyranyloxy)-24-oxo-5β-cholane | 177 mg | O1C(CCCC1)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCC=O)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C29H48O3
